US04804668
Ethyl chloroformate (1.0 g) was added dropwise to a stirred solution of thiazole (0.79 g) in dichloromethane (10 ml) under ice-cooling and the mixture was stirred at room temperature for 0.5 hour. Then, 2,2-dimethoxy-5-methyl-2H-1,4-thiazin-3(4H)-one (1.47 g) was added, and the mixture was stirred at room temperature for 3 hours. The solution was washed with saturated sodium bicarbonate aqueous solution, dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (Merck Lobar column size B: Art.10401, solvent: ethyl acetate-n-hexane=2:3) to give 2,2-dimethoxy-5-methyl-6-(3-ethoxycarbonyl-2,3-dihydro-2-thiazolyl)-2H-1,4-thiazin-(4H-one (510 mg, yield 19%) as colorless prisms.

reactant | Ethyl chloroformate | 1.0 g | ClC(=O)OCC | C3H5ClO2
reactant | thiazole | 0.79 g | S1C=NC=C1 | C3H3NS
reactant | 2,2-dimethoxy-5-methyl-2H-1,4-thiazin-3(4H)-one | 1.47 g | COC1(SC=C(NC1=O)C)OC | C7H11NO3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,2-dimethoxy-5-methyl-6-(3-ethoxycarbonyl-2,3-dihydro-2-thiazolyl)-2H-1,4-thiazin | yield 19% | COC1(SC(=C(N=C1)C)C1SC=CN1C(=O)OCC)OC | C13H18N2O4S2
